US06149990
A solution of potassium hydroxide (56.1 g) dissolved in 30 ml of water, and methyl 4-hydroxybenzoate (152 g) were suspended in 1500 ml of ethyleneglycolmonoethylether. To this mixture was dropped trans-4-ethylcyclohexylmethylbromide (200 g), and then the mixture formed was stirred under reflux for 4 hours. After cooling to room temperature, a solution of sodium hydroxide (80 g) dissolved in water (400 ml) was added with stirring and was refluxed for 2 hours. After the reaction was completed, the mixture was cooled, added with diluted hydrochloric acid (1 liter), and extracted with toluene (5 liters). The organic layer separated was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 4-(trans-4-ethylcyclohexylmethoxy)benzoic acid (147 g).

reactant | potassium hydroxide | 56.1 g | [OH-].[K+]
reactant | methyl 4-hydroxybenzoate | 152 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | trans-4-ethylcyclohexylmethylbromide | 200 g | C(C)[C@@H]1CC[C@H](CC1)CBr | C9H17Br
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 liter | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 4-(trans-4-ethylcyclohexylmethoxy)benzoic acid | 147 g | C(C)[C@@H]1CC[C@H](CC1)COC1=CC=C(C(=O)O)C=C1 | C16H22O3
